US04175087
A mixture of 1.65 g. (0.01 moles) of 1-(3-furanyl)-3-(dimethylamino)-2-propen-1-one and 100 ml. of anhydrous tetrahydrofuran was prepared and cooled to -30° C. and there was added thereto 5.5 ml. of a 1.85 M solution of isopropyllithium in pentane. The reaction mixture was stirred for about one-half hour at -30° C. The reaction product mixture was worked up by adding 5 ml. of water and concentrating the resulting mixture in vacuo. The residue which remained was taken up in methylene dichloride, the solution washed successively with water and saturated aqueous sodium chloride solution, and dried over anhydrous magnesium sulfate. The drying agent was filtered off and the filtrate concentrated in vacuo. The material which remained was chromatographed on silica gel using methylene dichloride and then 95% methylene dichloride-5% ethyl acetate as eluent. The first product off the column was the desired material, the yield of which was 600 mg. and was identified by NMR spectrum as 1-(3-furanyl)-4-methyl-2 -penten-1-one. The structure of this product was further established by hydrogenation of the 1-(3-furanyl)-4-methyl-2-penten-1-one in ethanol and over 5% palladium on carbon to yield perillaketone, a naturally-occurring furanoterpene originally isolated from Perilla frutescens Brit. by Goto, J. Pharm. Soc. Japan, 57, 77 (1937).

reactant | 1-(3-furanyl)-3-(dimethylamino)-2-propen-1-one | 0.01 moles | O1C=C(C=C1)C(C=CN(C)C)=O | C9H11NO2
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | isopropyllithium | C(C)(C)[Li]
solvent | pentane | CCCCC | C5H12
product | perillaketone | CC(C)CCC(=O)C=1C=COC1 | C10H14O2
